### PR TITLE
feat: ENat set cardinality

### PR DESCRIPTION
**Pull request by apnelson1**
This introduces a noncomputable function `encard : Set α → ℕ∞` whose value at `s` is the cardinality of `s` as an extended natural number. We provide some API to relate this to the `Nat` version `ncard` in the case where `s` is finite, and also a few lemmas for `encard` that apply to both finite and infinite sets. We also provide some tweaks to some `ncard` lemmas to make them more useful, and add two basic API lemmas in the `ENat` file.  

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Ncard.lean [hunk 1]
```diff
@@ -117,13 +125,13 @@ theorem ncard_ne_zero_of_mem (h : a ∈ s) (hs : s.Finite := by toFinite_tac) :
   ((ncard_pos hs).mpr ⟨a, h⟩).ne.symm
 #align set.ncard_ne_zero_of_mem Set.ncard_ne_zero_of_mem
 
-theorem finite_of_ncard_ne_zero (hs : s.ncard ≠ 0) : s.Finite :=
+theorem Finite_of_ncard_ne_zero (hs : s.ncard ≠ 0) : s.Finite :=
```
Comment (j-loreaux) [inline Mathlib/Data/Set/Ncard.lean:128]: Here and elsewhere: these changes to capitalize `finite` to `Finite` are a misunderstanding of the naming conventions. It is `Set.Finite` with a capital `F` because it is is a `Prop`, but in declarations which are *proofs* of a proposition, references to `Set.Finite` are decapitalized (and often the `Set` part is omitted) to `finite`.
```suggestion
theorem finite_of_ncard_ne_zero (hs : s.ncard ≠ 0) : s.Finite :=
```

File: Mathlib/Data/Set/Ncard.lean [hunk 2]
```diff
@@ -117,13 +125,13 @@ theorem ncard_ne_zero_of_mem (h : a ∈ s) (hs : s.Finite := by toFinite_tac) :
...
   s.finite_or_infinite.elim id fun h ↦ (hs h.ncard).elim
-#align set.finite_of_ncard_ne_zero Set.finite_of_ncard_ne_zero
+#align set.finite_of_ncard_ne_zero Set.Finite_of_ncard_ne_zero
 
-theorem finite_of_ncard_pos (hs : 0 < s.ncard) : s.Finite :=
-  finite_of_ncard_ne_zero hs.ne.symm
-#align set.finite_of_ncard_pos Set.finite_of_ncard_pos
+theorem Finite_of_ncard_pos (hs : 0 < s.ncard) : s.Finite :=
+  Finite_of_ncard_ne_zero hs.ne.symm
+#align set.finite_of_ncard_pos Set.Finite_of_ncard_pos
```
Comment (j-loreaux) [inline Mathlib/Data/Set/Ncard.lean:134]: Also here.

File: Mathlib/Data/Set/Ncard.lean [hunk 3]
```diff
@@ -299,7 +307,7 @@ theorem fiber_ncard_ne_zero_iff_mem_image {y : β} (hs : s.Finite := by toFinite
   convert (ncard_image_of_injective univ Subtype.coe_injective).symm using 1
   · rw [ncard_univ]
   simp
-#align set.nat.card_coe_set_eq Set.Nat.card_coe_set_eq
+#align set.ncardat.card_coe_set_eq Set.Nat.card_coe_set_eq
```
Comment (j-loreaux) [inline Mathlib/Data/Set/Ncard.lean:310]: Did the mathlib3 declaration name really change? If not, this is wrong. If so, it should probably be part of a forward-port PR.

File: Mathlib/Data/Set/Ncard.lean [hunk 4]
```diff
@@ -572,36 +580,36 @@ theorem ncard_add_ncard_compl (s : Set α) (hs : s.Finite := by toFinite_tac)
...
-  rw [add_eq_zero_iff] at h₁'
-  refine' ⟨t, h₂, rfl.subset, _⟩
-  rw [h₁'.2, h₁'.1, ht.ncard, add_zero]
+  rw [ht.ncard, Nat.le_zero, add_eq_zero] at h
+  exact ⟨t, hst, rfl.subset, by rw [h.1, h.2, ht.ncard, add_zero]⟩
+
 #align set.exists_intermediate_set Set.exists_intermediate_Set
 
-theorem exists_intermediate_set' {m : ℕ} (hs : s.ncard ≤ m) (ht : m ≤ t.ncard) (h : s ⊆ t) :
+theorem exists_intermediate_Set' {m : ℕ} (hs : s.ncard ≤ m) (ht : m ≤ t.ncard) (h : s ⊆ t) :
```
Comment (j-loreaux) [inline Mathlib/Data/Set/Ncard.lean:597]: Again, this capitalization is wrong.

File: Mathlib/Data/Set/Ncard.lean [hunk 5]
```diff
@@ -572,36 +580,36 @@ theorem ncard_add_ncard_compl (s : Set α) (hs : s.Finite := by toFinite_tac)
...
-#align set.exists_intermediate_set' Set.exists_intermediate_set'
+#align set.exists_intermediate_set' Set.exists_intermediate_Set'
 
 /-- We can shrink `s` to any smaller size. -/
-theorem exists_smaller_set (s : Set α) (i : ℕ) (h₁ : i ≤ s.ncard) :
-    ∃ t : Set α, t ⊆ s ∧ t.ncard = i :=
-  (exists_intermediate_Set i (by simpa) (empty_subset s)).imp fun t ht ↦
-    ⟨ht.2.1, by simpa using ht.2.2⟩
-#align set.exists_smaller_set Set.exists_smaller_set
+theorem exists_smaller_Set (s : Set α) (i : ℕ) (h : i ≤ s.ncard) :
```
Comment (j-loreaux) [inline Mathlib/Data/Set/Ncard.lean:606]: and here `Set` should be `set`

File: Mathlib/Data/Set/Ncard.lean [hunk 6]
```diff
@@ -766,4 +776,168 @@ theorem ncard_eq_three : s.ncard = 3 ↔ ∃ x y z, x ≠ y ∧ x ≠ z ∧ y 
   tauto
 #align set.ncard_eq_three Set.ncard_eq_three
 
+section encard
+
+/-- The cardinality of a `Set` as an term in `ENat`. Infinite sets have cardinality `⊤`  -/
+noncomputable def encard (s : Set α) : ℕ∞ := PartENat.withTopEquiv (PartENat.card s)
+
+theorem Finite.encard_eq (hs : s.Finite) : s.encard = (s.ncard : ℕ∞) := by
```
Comment (j-loreaux) [inline Mathlib/Data/Set/Ncard.lean:784]: Just to clarify, the capitalization is *correct* here because it is part of the namespace and makes dot notation work properly.

File: Mathlib/Data/Set/Ncard.lean [hunk 7]
```diff
@@ -766,4 +776,168 @@ theorem ncard_eq_three : s.ncard = 3 ↔ ∃ x y z, x ≠ y ∧ x ≠ z ∧ y 
...
+  obtain ⟨s, rfl⟩ := hs.exists_finset_coe; simp [encard]
+
+theorem Infinite.encard_eq (hs : s.Infinite) : s.encard = ⊤ := by
+  have := hs.to_subtype; simp [encard]
+
+@[simp] theorem encard_toNat_eq (s : Set α) : ENat.toNat s.encard = s.ncard :=
+  s.finite_or_infinite.elim (fun h ↦ by simp [h.encard_eq]) (fun h ↦ by simp [h.encard_eq, h.ncard])
+
+@[simp] theorem encard_eq_top_iff_Infinite : s.encard = ⊤ ↔ s.Infinite :=
```
Comment (j-loreaux) [inline Mathlib/Data/Set/Ncard.lean:793]:
```suggestion
@[simp] theorem encard_eq_top_iff_infinite : s.encard = ⊤ ↔ s.Infinite :=
```

File: Mathlib/Data/Set/Ncard.lean [hunk 8]
```diff
@@ -766,4 +776,168 @@ theorem ncard_eq_three : s.ncard = 3 ↔ ∃ x y z, x ≠ y ∧ x ≠ z ∧ y 
...
+  ⟨fun h hfin ↦ by simp [hfin.encard_eq] at h, Infinite.encard_eq⟩
+
+@[simp] theorem encard_lt_top_iff_Finite : s.encard < ⊤ ↔ s.Finite := by
```
Comment (j-loreaux) [inline Mathlib/Data/Set/Ncard.lean:796]:
```suggestion
@[simp] theorem encard_lt_top_iff_finite : s.encard < ⊤ ↔ s.Finite := by
```

File: Mathlib/Data/Set/Ncard.lean [hunk 9]
```diff
@@ -766,4 +776,168 @@ theorem ncard_eq_three : s.ncard = 3 ↔ ∃ x y z, x ≠ y ∧ x ≠ z ∧ y 
...
+  rw [lt_top_iff_ne_top, ←not_infinite, ←encard_eq_top_iff_Infinite]
+
+theorem encard_ne_top_iff_Finite : s.encard ≠ ⊤ ↔ s.Finite := by
```
Comment (j-loreaux) [inline Mathlib/Data/Set/Ncard.lean:799]:
```suggestion
theorem encard_ne_top_iff_Finite : s.encard ≠ ⊤ ↔ s.finite := by
```

File: Mathlib/Data/Set/Ncard.lean [hunk 10]
```diff
@@ -766,4 +776,168 @@ theorem ncard_eq_three : s.ncard = 3 ↔ ∃ x y z, x ≠ y ∧ x ≠ z ∧ y 
...
+theorem encard_eq_succ_iff_ncard_eq_succ {k : ℕ} : s.encard = k + 1 ↔ s.ncard = k + 1 :=
+  encard_eq_iff_ncard_eq_of_ne_zero (Nat.succ_ne_zero _)
+
+theorem Finite.encard_lt_top (hs : s.Finite) : s.encard < ⊤ :=
+  encard_lt_top_iff_Finite.mpr hs
+
+theorem Finite.encard_ne_top (hs : s.Finite) : s.encard ≠ ⊤ :=
+  encard_ne_top_iff_Finite.mpr hs
+
+theorem Finite_of_encard_le_coe {n : ℕ} (h : s.encard ≤ n) : s.Finite :=
```
Comment (j-loreaux) [inline Mathlib/Data/Set/Ncard.lean:819]:
```suggestion
theorem finite_of_encard_le_coe {n : ℕ} (h : s.encard ≤ n) : s.Finite :=
```

File: Mathlib/Data/Set/Ncard.lean [hunk 11]
```diff
@@ -766,4 +776,168 @@ theorem ncard_eq_three : s.ncard = 3 ↔ ∃ x y z, x ≠ y ∧ x ≠ z ∧ y 
...
+@[simp] theorem encard_singleton (x : α) : ({x} : Set α).encard = 1 := by
+  rw [(finite_singleton x).encard_eq, ncard_singleton, ENat.coe_one]
+
+theorem ncard_eq_ncard_of_encard_eq_encard (h : s.encard = t.encard) :
+  s.ncard = t.ncard := by rw [←encard_toNat_eq, h, encard_toNat_eq]
+
+theorem Finite.encard_eq_encard_of_ncard_eq_ncard (hs : s.Finite) (ht : t.Finite)
+(h : s.ncard = t.ncard) : s.encard = t.encard := by rw [hs.encard_eq, ht.encard_eq, h]
+
+theorem Finite.Finite_of_encard_le (hs : s.Finite) (h : t.encard ≤ s.encard) : t.Finite := by
```
Comment (j-loreaux) [inline Mathlib/Data/Set/Ncard.lean:850]:
```suggestion
theorem Finite.finite_of_encard_le (hs : s.Finite) (h : t.encard ≤ s.encard) : t.Finite := by
```

File: Mathlib/Data/Set/Ncard.lean [hunk 12]
```diff
@@ -766,4 +776,168 @@ theorem ncard_eq_three : s.ncard = 3 ↔ ∃ x y z, x ≠ y ∧ x ≠ z ∧ y 
...
+
+theorem encard_union_add_encard_inter (s t : Set α) :
+  (s ∪ t).encard + (s ∩ t).encard = s.encard + t.encard :=
+by rw [←diff_union_self, encard_union_eq disjoint_sdiff_left, add_right_comm,
+  encard_diff_add_encard_inter]
+
+theorem encard_union_le (s t : Set α) : (s ∪ t).encard ≤ s.encard + t.encard := by
+  rw [←encard_union_add_encard_inter]; exact le_self_add
+
+theorem Finite_iff_Finite_of_encard_eq_encard (h : s.encard = t.encard) : s.Finite ↔ t.Finite := by
```
Comment (j-loreaux) [inline Mathlib/Data/Set/Ncard.lean:926]:
```suggestion
theorem finite_iff_finite_of_encard_eq_encard (h : s.encard = t.encard) : s.Finite ↔ t.Finite := by
```

File: Mathlib/Data/Set/Ncard.lean [hunk 13]
```diff
@@ -766,4 +776,168 @@ theorem ncard_eq_three : s.ncard = 3 ↔ ∃ x y z, x ≠ y ∧ x ≠ z ∧ y 
...
+  rw [←encard_lt_top_iff_Finite, ←encard_lt_top_iff_Finite, h]
+
+theorem Infinite_iff_Infinite_of_encard_eq_encard (h : s.encard = t.encard) :
```
Comment (j-loreaux) [inline Mathlib/Data/Set/Ncard.lean:929]:
```suggestion
theorem infinite_iff_infinite_of_encard_eq_encard (h : s.encard = t.encard) :
```

**Review by j-loreaux — COMMENTED** [review]
Mainly naming issues for now, but there may be more to say later. Can you please add something to the PR description to explain why we want this `ENat` version? I'm currently hesitant to want to approve something like this because we already have several versions of cardinality, and I'm not sure we need another one. What purpose is this serving that the others aren't? If it's really important, should we drop `ncard` in favor of this (along with a few lemmas which allow use to get from `ENat` to `Nat` when the set is finite)?

**Comment by apnelson1** [comment]
> Mainly naming issues for now, but there may be more to say later. Can you please add something to the PR description to explain why we want this `ENat` version? I'm currently hesitant to want to approve something like this because we already have several versions of cardinality, and I'm not sure we need another one. What purpose is this serving that the others aren't? If it's really important, should we drop `ncard` in favor of this (along with a few lemmas which allow use to get from `ENat` to `Nat` when the set is finite)?


> Mainly naming issues for now, but there may be more to say later. Can you please add something to the PR description to explain why we want this `ENat` version? I'm currently hesitant to want to approve something like this because we already have several versions of cardinality, and I'm not sure we need another one. What purpose is this serving that the others aren't? If it's really important, should we drop `ncard` in favor of this (along with a few lemmas which allow use to get from `ENat` to `Nat` when the set is finite)?

Thanks for the comments and review! I now understand the caps convention, I think :) 

I believe that both `ncard` and `encard` have reasonable uses, and I've updated the docs to hopefully explain this better. But more informally: 

 I think `ncard` is good for not having to interact with `toFinset.card` and `Finite.toFinset.card` and the resulting layer of API where one is working with sets known (propositionally, not structurally) to be finite. 

`encard` is just a natural way to think about the cardinalities of sets; every set is 'smaller' than an infinite set. The problem is that it takes values in an awkward type. Using `encard` and the structure of `Nat` in a settings where sets are finite would need constant use of API to go backwards and forwards; I think a better solution is to have both available and pick one that makes sense. 

My lean4 matroids project (https://github.com/apnelson1/Matroid) is still under construction (porting from the lean3 version) but makes essential use of both `encard` and `ncard`. Some of this is already visible.

**Comment by j-loreaux** [comment]
I remain unconvinced that we need both. I suspect that perhaps the right way to go about this is to define `encard` and then fill in API concerning its composition with `ENat.toNat` so that we can avoid `ℕ∞` when we want to and everything is finite.

At the very least, if we keep both, I think we should probably redefine `ncard s := (encard s).toNat`

**Comment by apnelson1** [comment]
> I remain unconvinced that we need both. I suspect that perhaps the right way to go about this is to define `encard` and then fill in API concerning its composition with `ENat.toNat` so that we can avoid `ℕ∞` when we want to and everything is finite.
> 
> At the very least, if we keep both, I think we should probably redefine `ncard s := (encard s).toNat`
> 
> Can you point more specifically to some places where you actually needed both?

Here ( https://github.com/apnelson1/lean-matroids/blob/master/src/m_in/erank.lean ) is a (lean3) file where both are used - it's a situation that runs parallel to the `ncard/encard` distinction. To explain, a set in a matroid has a `rank`, which is the size of one of its subsets that is a 'basis' (these are analogous to the familiar terms in linear algebra, but the setting is more general). In nearly of the literature in matroid theory, matroids and all sets in them are finite, and hence rank is `nat`-valued, and plenty of `nat` arithmetic happens with rank that wouldn't work in `enat`. However, matroids and their bases can be infinite, and so the `nat` version can take junk values. So the solution is to have an API for the commonly used `nat`-valued rank function `matroid.r` for matroids where all bases are finite (this is `[finite_rk M]`), and then a smaller API for the more general `enat`-valued rank function `matroid.er` for general matroids where ranks can be infinite. 

Having only the `enat` version would be a real headache, and would make the ugly term `(M.er X).to_nat` appear everywhere in place of `M.r X` in most practical settings. I foresee the same problem with `encard.to_nat` being the idiomatic way to talk about the size of a set; sometimes you just want to talk about the cardinality of a set and its subsets/unions/intersections without hopping back and forth across an API. I feel the duplication is worth it. 

I think your suggestion to redefine `ncard` in terms of `encard` is a good idea, and I'd be happy to do that. Thanks again for taking the time here.

**Comment by apnelson1** [comment]
> > I remain unconvinced that we need both. I suspect that perhaps the right way to go about this is to define `encard` and then fill in API concerning its composition with `ENat.toNat` so that we can avoid `ℕ∞` when we want to and everything is finite.
> > At the very least, if we keep both, I think we should probably redefine `ncard s := (encard s).toNat`
> > Can you point more specifically to some places where you actually needed both?
> 
> Here ( https://github.com/apnelson1/lean-matroids/blob/master/src/m_in/erank.lean ) is a (lean3) file where both are used - it's a situation that runs parallel to the `ncard/encard` distinction. To explain, a set `X` in a matroid `M` has a 'rank', which is the size of one of its subsets that is a 'basis' (these are analogous to the familiar terms in linear algebra, but the setting is more general). In nearly of the literature in matroid theory, matroids and all sets in them are finite, and hence rank is `nat`-valued, and plenty of `nat` arithmetic happens with rank that wouldn't work in `enat`. However, matroids and their bases can be infinite, and so the `nat` version can take junk values. So the solution is to have an API for the commonly used `nat`-valued rank function `matroid.r` for matroids where all bases are finite (this is `[finite_rk M]`), and then a smaller API for the more general `enat`-valued rank function `matroid.er` for general matroids where ranks can be infinite.
> 
> Having only the `enat` version would be a real headache, and would make the ugly term `(M.er X).to_nat` appear everywhere in place of `M.r X` in most practical settings. I foresee the same problem with `encard.to_nat` being the idiomatic way to talk about the size of a set; sometimes you just want to talk about the cardinality of a set and its subsets/unions/intersections without hopping back and forth across a layer of API. I feel the duplication is worth it.
> 
> I think your suggestion to redefine `ncard` in terms of `encard` is a good idea, and I'd be happy to do that. Thanks again for taking the time here.



> I remain unconvinced that we need both. I suspect that perhaps the right way to go about this is to define `encard` and then fill in API concerning its composition with `ENat.toNat` so that we can avoid `ℕ∞` when we want to and everything is finite.
> 
> At the very least, if we keep both, I think we should probably redefine `ncard s := (encard s).toNat`
> 
> Can you point more specifically to some places where you actually needed both?

Maybe a relevant analogy is with `Real.sqrt`, as discussed in Kevin's very nice blogpost. You just want a function `sqrt : ℝ → ℝ` to work with directly so that statements are clean, expressions don't need hypotheses to typecheck, and the codomain is a type that is easy to work with. `ncard` does this does for the sizes of sets, even though it has the 'wrong' codomain mathematically. I think it would be a mistake to drop it.
